Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
right knee osteoarthritis/pain
 
Major Surgical or Invasive Procedure:
___: right total knee arthroplasty

 
History of Present Illness:
Patient is ___ year old female with history of right knee 
osteoarthritis admitted for right complex TKA.
 
Past Medical History:
R knee menisectomy ___
DVT/PE
DMII 
asthma
CVA ___ with residual left facial droop
myelopathy
obesity s/p gastric bypass
severe gastritis/esophagitis w/odynophagia
recurrent esophageal candidiasis,
multiple abdominal surgeries for "stomach leak"
s/p CCY
SBO
PUD
GERD
macrocytic anemia
h/o MRSA
 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF
 
Physical Exam:
Well appearing in no acute distress  
 Afebrile with stable vital signs  
 Pain well-controlled  
 Respiratory: CTAB  
 Cardiovascular: RRR  
 Gastrointestinal: NT/ND  
 Genitourinary: Voiding independently  
 Neurologic: Intact with no focal deficits  
 Psychiatric: Pleasant, A&O x3  
 Musculoskeletal Lower Extremity:  
 * Incision healing well with staples  
 * Scant serosanguinous drainage  
 * Thigh full but soft  
 * No calf tenderness  
 * ___ strength  
 * SILT, NVI distally  
 * Toes warm  
 
Pertinent Results:
___ 06:10AM BLOOD WBC-6.5 RBC-2.90* Hgb-8.9* Hct-29.2* 
MCV-101* MCH-30.7 MCHC-30.5* RDW-15.9* RDWSD-59.7* Plt ___
___ 06:40AM BLOOD WBC-9.0 RBC-2.89* Hgb-8.9* Hct-28.3* 
MCV-98 MCH-30.8 MCHC-31.4* RDW-16.7* RDWSD-60.1* Plt ___
___ 07:20AM BLOOD WBC-10.7*# RBC-3.19* Hgb-9.9* Hct-31.0* 
MCV-97 MCH-31.0 MCHC-31.9* RDW-17.0* RDWSD-61.1* Plt ___
___ 11:00AM BLOOD WBC-7.0 RBC-2.86* Hgb-9.0* Hct-28.5* 
MCV-100* MCH-31.5 MCHC-31.6* RDW-13.8 RDWSD-50.7* Plt ___
___ 07:40PM BLOOD WBC-6.7# RBC-3.23* Hgb-10.1* Hct-33.1* 
MCV-103* MCH-31.3 MCHC-30.5* RDW-13.9 RDWSD-52.1* Plt ___
___ 09:15AM BLOOD WBC-3.2* RBC-3.56* Hgb-11.2 Hct-36.4 
MCV-102* MCH-31.5 MCHC-30.8* RDW-13.8 RDWSD-52.8* Plt ___
___ 05:05PM BLOOD WBC-3.7* RBC-3.41* Hgb-10.7* Hct-35.1 
MCV-103* MCH-31.4 MCHC-30.5* RDW-14.0 RDWSD-52.8* Plt ___
___ 09:15AM BLOOD Neuts-46.2 ___ Monos-5.3 Eos-2.8 
Baso-0.9 Im ___ AbsNeut-1.47*# AbsLymp-1.42 AbsMono-0.17* 
AbsEos-0.09 AbsBaso-0.03
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD ___
___ 11:00AM BLOOD Plt ___
___ 11:00AM BLOOD ___
___ 07:40PM BLOOD Plt ___
___ 09:15AM BLOOD Plt ___
___ 09:15AM BLOOD PTT-69.8*
___ 12:15AM BLOOD PTT-150*
___ 05:05PM BLOOD Plt ___
___ 05:05PM BLOOD PTT-34.8
___ 06:10AM BLOOD Glucose-80 UreaN-15 Creat-0.8 Na-140 
K-4.6 Cl-104 HCO3-26 AnGap-15
___ 06:40AM BLOOD Glucose-78 UreaN-15 Creat-0.6 Na-139 
K-4.3 Cl-105 HCO3-25 AnGap-13
___ 07:20AM BLOOD Glucose-72 UreaN-13 Creat-0.7 Na-142 
K-4.0 Cl-105 HCO3-26 AnGap-15
___ 11:00AM BLOOD Glucose-149* UreaN-10 Creat-0.8 Na-138 
K-3.6 Cl-102 HCO3-26 AnGap-14
___ 05:05PM BLOOD Glucose-90 UreaN-13 Creat-0.9 Na-143 
K-3.8 Cl-104 HCO3-30 AnGap-13
___ 06:10AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.0
___ 05:05PM BLOOD Calcium-9.1 Phos-3.9 Mg-1.6
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service 
pre-operatively to be started on a heparin drip.  She was taken 
to the operating room for above described procedure. Please see 
separately dictated operative report for details. The surgery 
was uncomplicated and the patient tolerated the procedure well. 
Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
On POD#1, the patient received 2 units of blood for a hematocrit 
of 28.5.  On POD#2, her hematocrit was 31. 

Otherwise, pain was controlled with a PCA post-operatively.  The 
Chronic Pain service assisted with co-management of the patient. 
 The PCA was discontinued on POD#2 and they assisted with making 
recommendations for oral pain management.  The patient received 
Coumadin and Lovenox for DVT prophylaxis.  The Coumadin was 
resumed on POD#0 and the Lovenox was started on POD#2.  The 
Coumadin was dosed based on her INR levels.  Lovenox was to be 
continued until INR > 2.  The foley was removed and the patient 
was voiding independently thereafter. The surgical dressing was 
changed on POD#2 and the surgical incision was found to be clean 
and intact without erythema or abnormal drainage. The patient 
was seen daily by physical therapy. Labs were checked throughout 
the hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the wound was benign. 

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity.

Ms. ___ is discharged to rehab in stable condition.
 
Medications on Admission:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. ClonazePAM 1 mg PO BID 
3. Doxepin HCl 100 mg PO HS 
4. Vitamin D Dose is Unknown  PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Furosemide 20 mg PO DAILY 
7. Gabapentin 400 mg PO TID 
8. Ipratropium-Albuterol Neb 1 NEB NEB Q6H wheezing 
9. Methadone 20 mg PO TID 
10. Pantoprazole 40 mg PO Q12H 
11. Ondansetron 4 mg PO Q8H:PRN nausea 
12. QUEtiapine Fumarate 75 mg PO QHS 
13. Ranitidine 150 mg PO DAILY 
14. Sucralfate 1 gm PO QID 
15. Ursodiol 500 mg PO BID 
16. Warfarin 10 mg PO AS INSTRUCTED 
17. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
18. Ascorbic Acid ___ mg PO DAILY 
19. Bisacodyl 10 mg PR QHS:PRN constipation 
20. Cyanocobalamin 100 mcg PO DAILY 
21. Calcium Carbonate 500 mg PO QID:PRN heartburn 
22. Ferrous Sulfate 325 mg PO DAILY 
23. Docusate Sodium 100 mg PO BID 
24. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
25. Miconazole Powder 2% 1 Appl TP TID:PRN rash 
26. Polyethylene Glycol 17 g PO DAILY 
27. Fleet Enema ___AILY:PRN constipation 
28. Thiamine 100 mg PO DAILY 
 
Discharge Medications:
1.  Diazepam 2.5-5 mg PO BID:PRN anxiety or muscle spasm  
2.  Enoxaparin Sodium 30 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
discontinue when INR > 2.0 and take Coumadin only  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate  

4.  Acetaminophen 1000 mg PO Q8H  
5.  Gabapentin 600 mg PO TID  
6.  Vitamin D 1000 UNIT PO DAILY  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  Bisacodyl 10 mg PR QHS:PRN constipation  
9.  BuPROPion (Sustained Release) 150 mg PO BID  
10.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
11.  ClonazePAM 1 mg PO BID  
12.  Cyanocobalamin 100 mcg PO DAILY  
13.  Docusate Sodium 100 mg PO BID  
14.  Doxepin HCl 100 mg PO HS  
15.  Ferrous Sulfate 325 mg PO DAILY  
16.  Fleet Enema ___AILY:PRN constipation  
17.  FoLIC Acid 1 mg PO DAILY  
18.  Furosemide 20 mg PO DAILY  
19.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H wheezing  
20.  Methadone 20 mg PO TID  
21.  Miconazole Powder 2% 1 Appl TP TID:PRN rash  
22.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
23.  Ondansetron 4 mg PO Q8H:PRN nausea  
24.  Pantoprazole 40 mg PO Q12H  
25.  Polyethylene Glycol 17 g PO DAILY  
26.  QUEtiapine Fumarate 75 mg PO QHS  
27.  Ranitidine 150 mg PO DAILY  
28.  Sucralfate 1 gm PO QID  
29.  Thiamine 100 mg PO DAILY  
30.  Ursodiol 500 mg PO BID  
31.  Warfarin 10 mg PO AS INSTRUCTED  

32.Lovenox bridge to Coumadin
Lovenox bridge to Coumadin
Please continue Lovenox 30mg BID until INR > 2.0, then 
discontinue Lovenox and take Coumadin only. 
INR checks daily
Goal INR 2.0-3.0
Coumadin dosing based on INR goal level 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right knee osteoarthritis/pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon.

6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.

7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc).

8. ANTICOAGULATION: Please continue your Coumadin which is being 
dosed based on your INR levels.  You should continue Lovenox 30 
mg twice daily until your INR > 2.  Once your INR > 2, you can 
discontinue the Lovenox and continue Warfarin.  Your INR goal is 
___.  

9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day if there is drainage, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed at your follow-up 
appointment in three weeks.

10. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks.

11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize.  ROM as tolerated. No strenuous exercise or 
heavy lifting until follow up appointment.

Physical Therapy:
WBAT RLE
No range of motion restrictions
Mobilize frequently

Treatments Frequency:
daily dressing changes as needed for drainage
wound checks daily
ice
staple removal and replace with steri-strips (at follow up visit 
in 3 weeks)
 
Followup Instructions:
___